US07947841B2
8-(3-Pyridin-2-yl[1,2,4]oxadiazol-5-yl)octanoic Acid
Add 2 N sodium hydroxide (20 mL) to a solution of ethyl 8-(3-pyridin-2-yl[1,2,4]oxadiazol-5-yl)octanoate in methanol (100 mL) at room temperature under nitrogen and stir the mixture for 3 hours. Remove the solvent under reduced pressure, dilute the residue with water and wash with diethyl ether. Adjust the aqueous layer to pH 1 with 2 N HCl and collect the solids by vacuum filtration to afford the title compound. APCI mass spectrum m/z 288 [C15H19N3O3—H]−.

reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | ethyl 8-(3-pyridin-2-yl[1,2,4]oxadiazol-5-yl)octanoate | N1=C(C=CC=C1)C1=NOC(=N1)CCCCCCCC(=O)OCC | C17H23N3O3
solvent | methanol | 100 mL | CO | CH4O
product | 8-(3-Pyridin-2-yl[1,2,4]oxadiazol-5-yl)octanoic Acid | N1=C(C=CC=C1)C1=NOC(=N1)CCCCCCCC(=O)O | C15H19N3O3
